US04150139
The reaction of 3-methylsulfinyl-11H-s-triazolo [3,4-b][3]benzazepin-11-one with sodium methoxide yielded 3-methoxy-11H-s-triazolo[3,4-b][3]benzazepin-11-one. Colorless platelets (as recrystallized from methanol), melting point: 149°-150° C.

reactant | 3-methylsulfinyl-11H-s-triazolo [3,4-b][3]benzazepin-11-one | CS(=O)C1=NN=C2C(C3=C(C=CN21)C=CC=C3)=O | C12H9N3O2S
reactant | sodium methoxide | C[O-].[Na+]
product | 3-methoxy-11H-s-triazolo[3,4-b][3]benzazepin-11-one | COC1=NN=C2C(C3=C(C=CN21)C=CC=C3)=O | C12H9N3O2
